US04289865
A solution of 20.91 g (0.20 mol) of methacryloyl chloride in 80 ml of methylene chloride was added to a solution of 45.86 g (0.20 mol) of N-butyl-4-hydroxybenzenesulfonamide, 20.24 g (0.20 mol) of triethylamine and 320 ml of methylene chloride and cooled to 0° C. over a period of approximately 20 minutes. The mixture was then stirred for another 1.5 hours with cooling, washed three times with water, dried over magnesium sulfate and concentrated in vacuo in a warm bath. The resultant oil (Note 1) was cooled and crystallized to an oily solid. Removal of residual solvent with high vacuum caused this material to completely solidify. This solid was recrystallized from 600 ml of cyclohexane with filtering. Collection of the white solid and drying at room temperature in vacuo gave 38.9 g of N-butyl-4-methacryloyloxybenzenesulfonamide; m.p.=59° to 60° C.

reactant | methacryloyl chloride | 0.20 mol, 20.91 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | N-butyl-4-hydroxybenzenesulfonamide | 0.20 mol, 45.86 g | C(CCC)NS(=O)(=O)C1=CC=C(C=C1)O | C10H15NO3S
reactant | triethylamine | 0.20 mol, 20.24 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 320 ml | C(Cl)Cl | CH2Cl2
product | N-butyl-4-methacryloyloxybenzenesulfonamide | 38.9 g | C(CCC)NS(=O)(=O)C1=CC=C(C=C1)OC(C(=C)C)=O | C14H19NO4S
